* source ASS
D_D3         0 N01290 Dbreak 
D_D1         N01290 N01337 Dbreak 
R_R1         0 N01337  1k  
C_C3         0 N01337  47uF  
C_C4         N01252 N01290  47uF  
V_V1         N01252 0  
+SIN 0 10 50 0 0 0
