* source BJT
V_VBB         N00196 0 0Vdc
R_R1         VCE N00180  1k  
Q_Q2         VCE VBE 0 Q2N2222
R_R2         N00196 VBE  100k  
V_VCC         N00180 0 0Vdc
