* source COMMON BASE
V_VCC         N01636 0 0Vdc
Q_Q3         VCB 0 N01529 Q2N2222
R_R5         N01529 N01606  100k  
R_R6         N01636 VCB  10k  
V_VEE         0 N01606 0Vdc
