* source EADTEST
R_R4         N07911 N08238  2  
R_R5         0 N08238  1m  
E_E1         N07911 N07881 N07881 0 2
I_I1         0 N07881 DC 5Adc  
R_R1         0 N07881  4  
R_R2         N07911 N07881  2  
R_R3         N07911 0  6  
