* source EADTEST2
V_V1         N00187 0 24Vdc
R_R1         N00187 N00411  20  
R_R2         N00187 N00247  8  
R_R3         0 N00411  5  
R_R5         N00247 N00524  5  
E_E1         N00524 0 N00411 0 10
